US06790860B2
To a suspension of methanesulphonic acid (0.96 g) in toluene (30 ml) was added triethylamine (1.40 ml) and triphenylphosphine (2.72 g) at 0-5° C. The suspension was stirred for 5 minutes, and (3R,5S)-5-benzyloxymethyl-1-(naphthalene-2-sulfonyl)-pyrrolidin-3-ol (3.46 g) dissolved in toluene (20 ml) was added dropwise in 5 minutes, followed by diisipropyl azodicarboxylate (2.0 ml). The reaction mixture was stirred for 3 h at 85° C., poured onto ice/water and extracted with ethy acetate. The organic phase was washed with 10% KHSO4— and NaCl solutions, dried over magnesium sulphate and concentrated. The residue was chromatographed on silica gel using EtOAc/hexane 1:2 and 1:1 as eluents to obtain (3S,5S)-methanesulfonic acid 5-benzyloxymethyl-1-(naphthalene-2-sulfonyl)-pyrrolidin-3-yl ester (3.35 g) as a slightly yellow syrup, MS: 476 (MH+).

reactant | methanesulphonic acid | 0.96 g | CS(=O)(=O)O | CH4O3S
reactant | triphenylphosphine | 2.72 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (3R,5S)-5-benzyloxymethyl-1-(naphthalene-2-sulfonyl)-pyrrolidin-3-ol | 3.46 g | C(C1=CC=CC=C1)OC[C@@H]1C[C@H](CN1S(=O)(=O)C1=CC2=CC=CC=C2C=C1)O | C22H23NO4S
reactant | azodicarboxylate | 2.0 ml | N(=NC(=O)[O-])C(=O)[O-]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 1.40 ml | C(C)N(CC)CC | C6H15N
product | (3S,5S)-methanesulfonic acid 5-benzyloxymethyl-1-(naphthalene-2-sulfonyl)-pyrrolidin-3-yl ester | 3.35 g | C(C1=CC=CC=C1)OC[C@@H]1C[C@@H](CN1S(=O)(=O)C1=CC2=CC=CC=C2C=C1)OS(=O)(=O)C | C23H25NO6S2
